US09193693B2
Step 1. Methyl 3-(4-methyl-1,4-diazepan-1-yl)-2-phenylquinoxaline-6-carboxylate
Into a 8-mL sealed tube, was placed a solution of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv) in N,N-dimethylformamide (4 mL), 1-methyl-1,4-diazepane (100.3 mg, 0.88 mmol, 2.00 equiv), DIEA (170.3 mg, 1.32 mmol, 3.00 equiv). The resulting solution was stirred overnight at 100° C. in an oil bath. The resulting solution was concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (20:1). This resulted in 126.6 mg (77%) of methyl 3-(4-methyl-1,4-diazepan-1-yl)-2-phenylquinoxaline-6-carboxylate as yellow oil.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 1-methyl-1,4-diazepane | 0.88 mmol, 100.3 mg, 2.00 equiv | CN1CCNCCC1 | C6H14N2
reactant | DIEA | 1.32 mmol, 170.3 mg, 3.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | Methyl 3-(4-methyl-1,4-diazepan-1-yl)-2-phenylquinoxaline-6-carboxylate | CN1CCN(CCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C22H24N4O2
